US07906516B2
1.2 40 ml of 4N hydrochloric acid in dioxane are added to a solution of 1.4 g (3.60 mmol) of tert-butyl 2-[4-(3-oxomorpholin-4-yl)phenyl-carbamoyl]pyrrolidine-1-carboxylate in 20 ml of dioxane, and the mixture is stirred at room temperature for 12 hours. The precipitate is subsequently filtered off with suction and washed successively with 10 ml of dioxane and 10 ml of diethyl ether and dried under reduced pressure, giving 1.1 g of N-[4-(3-oxomorpholin-4-yl)phenyl]pyrrolidine-2-carboxamide hydrochloride as a white powder; ESI 290.

reactant | hydrochloric acid | 4N | Cl | ClH
reactant | tert-butyl 2-[4-(3-oxomorpholin-4-yl)phenyl-carbamoyl]pyrrolidine-1-carboxylate | 3.60 mmol, 1.4 g | O=C1N(CCOC1)C1=CC=C(C=C1)NC(=O)C1N(CCC1)C(=O)OC(C)(C)C | C20H27N3O5
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | N-[4-(3-oxomorpholin-4-yl)phenyl]pyrrolidine-2-carboxamide hydrochloride | 1.1 g | Cl.O=C1N(CCOC1)C1=CC=C(C=C1)NC(=O)C1NCCC1 | InChI=1S/C15H19N3O3.ClH/c19-14-10-21-9-8-18(14)12-5-3-11(4-6-12)17-15(20)13-2-1-7-16-13;/h3-6,13,16H,1-2,7-10H2,(H,17,20);1H
